US06562989B2
3-methoxy-4′-methoxy-1,1′-biphenyl (Table 17, Entry 4)
3-Chloroanisole (76 mg, 0.54 mmol) reacted with 4-methoxyphenylboronic acid (117 mg, 0.77 mmol) using 1 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (87 mg, 1.50 mmol) in toluene at 80° C. to give the title compound (112 mg, 97%) as a colorless oil: 1H-NMR (300 MHz CDCl3): δ 7.57 (d, 2H, J=8.7 Hz), 7.37 (t, 1H, J=7.8 and 8.1 Hz), 7.17 (m, 2H), 7.01 (d, 2H, J=8.7 Hz), 6.88-6.97 (m, 1H), 3.89 (s, 3H), 3.88 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ 159.86, 159.17, 142.28, 135.51, 129.66, 128.13, 119.21, 114.09, 112.44, 111.93. GC/MS (EI): m/z 214 (M+), 199, 171, 128. Anal. Calcd for C14H4O2: C, 78.48; H, 6.59. Found C, 78.46: H, 6.62.

reactant | 3-Chloroanisole | 0.54 mmol, 76 mg | ClC=1C=C(C=CC1)OC | C7H7ClO
reactant | 4-methoxyphenylboronic acid | 0.77 mmol, 117 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | KF | 1.50 mmol, 87 mg | [F-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-4′-methoxy-1,1′-biphenyl | 112 mg, 97% | COC=1C=C(C=CC1)C1=CC=C(C=C1)OC | C14H14O2
